US08138197B2
Methyl 3-benzyloxy-5-[({[2-(trimethylsilyl)ethyl]oxy}methyl)tetrazol-5-yl]benzoate
With cooling with ice, diisopropylethylamine (1.5 mL) and trimethylsilylethoxymethyl chloride (1.6 mL) were added to a CHCl3 (70 mL) solution of methyl 3-benzyloxy-5-(tetrazol-5-yl)benzoate (2.32 g), and stirred at room temperature for 1 hour. Sodium bicarbonate water was added to the reaction liquid, and extracted with chloroform. The organic layer was washed with water and saturated saline water, dried with anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to obtain the title compound as a brown oil. Not purified, this was used in the next step.

reactant | diisopropylethylamine | 1.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trimethylsilylethoxymethyl chloride | 1.6 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | methyl 3-benzyloxy-5-(tetrazol-5-yl)benzoate | 2.32 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1 | C16H14N4O3
reactant | Sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | CHCl3 | 70 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 3-benzyloxy-5-[({[2-(trimethylsilyl)ethyl]oxy}methyl)tetrazol-5-yl]benzoate | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1COCC[Si](C)(C)C | C22H28N4O4Si
